US07557103B2
B. 3-(8-Diethoxymethyl-2-methyl-imidazo[1,2-a]pyridin-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
Using a procedure analogous to Example 16B, 8-diethoxymethyl-2-methyl-imidazo[1,2-a]pyridine (1.70 g, 7.26 mmol) and 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (2.49 g, 7.26 mmol) give the title compound (2.34 g, 5.21 mmol, 72%). 1H NMR (CDCl3): δ. 0.92 (t, J=7.5 Hz, 3H), 0.93 (t, J=7.5 Hz, 3H), 1.31 (t, J=7.1 Hz, 3H), 1.33 (t, J=7.1 Hz, 3H), 1.79-1.93 (m, 4H), 2.14 (s, 3H), 2.44 (s, 6H), 3.34-3.42 (m, 1H), 3.67-3.94 (m, 4H), 6.26 (s, 1H), 6.73 (s, 1H), 6.73-6.80 (m, 1H), 7.44-7.54 (m, 2H) ppm. ES-MS (m/z): calcd for C26H35N5O2 (M+H)+: 450.6. found: 450.3.

reactant | 8-diethoxymethyl-2-methyl-imidazo[1,2-a]pyridine | 7.26 mmol, 1.70 g | C(C)OC(C=1C=2N(C=CC1)C=C(N2)C)OCC | C13H18N2O2
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 7.26 mmol, 2.49 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
product | 3-(8-Diethoxymethyl-2-methyl-imidazo[1,2-a]pyridin-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 5.21 mmol, 2.34 g, 72% | C(C)OC(C=1C=2N(C=CC1)C(=C(N2)C)C2=C(N=C1N2N=C(C=C1C(CC)CC)C)C)OCC | C26H35N5O2
